US09065063B2
Methoxymethyl triphenylphosphonium chloride (18.68 g, 54.5 mmol) was suspended in 200 mL of THF at −78° C. Lithium hexamethyldisilazide (1.0 M in THF, 50 mL) was added dropwise. The resulting mixture was warmed up to 0° C. with stirring. After cooling the solution to −78° C., 2,6-diisopropyl-4-bromobenzaldehyde (11.5 g, 42.7 mmol) in 20 mL of THF was added dropwise. The mixture was slowly warmed up to room temperature and continually stirred overnight. After regular work up, the crude product was distilled at 165° C. under vacuum to afford 2,6-diisopropyl-4-bromo-3-methoxystyrene (10 g). This product was dissolved in 20 mL of dioxane and 100 mL of 18% HCl solution and refluxed at 100° C. for 6 h. After regular work up, the crude product was distilled at 160° C. under vacuum to afford 2,6-diisopropyl-4-bromophenylacetaldehyde (7.5 g).

reactant | Methoxymethyl triphenylphosphonium chloride | 54.5 mmol, 18.68 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | Lithium hexamethyldisilazide | 1.0 M, 50 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 2,6-diisopropyl-4-bromobenzaldehyde | 42.7 mmol, 11.5 g | C(C)(C)C1=C(C=O)C(=CC(=C1)Br)C(C)C | C13H17BrO
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2,6-diisopropyl-4-bromo-3-methoxystyrene | 10 g | C(C)(C)C1=C(C=C)C(=CC(=C1OC)Br)C(C)C | C15H21BrO
